US05352762
Bromocyanogen in an amount of 63.5 g, and 25.2 g of sodium bicarbonate were dissolved in a mixed solvent of 75 ml of water and 50 ml of dimethylacetamide with sufficient stirring (in a cooled state). To the resulting solution, a solution obtained by dissolving 98.1 g of 1,1,1,3,3,3-hexafluoro-2,2-bis[4-(4-amino-2-trifluoromethylphenoxy)phenyl]propane in 300 ml of dimethylacetamide was added dropwise in about 4 hours while maintaining the cooled state at 0° to 10° C. After dropwise addition, aging was conducted for 12 hours. The resulting reaction solution was dropped in 1000 ml of water with stirring to deposit a pale yellow precipitate. The precipitate was separated by filtration with suction. The resulting precipitate was charged into 1000 ml of water again, washed with water, filtered again and washed with water. The resulting filtered solid was subjected to filtration under reduced pressure (drying conditions; temperature 30° C., pressure 10 mmHg, period 12 hours) to yield 104.8 g of crystals of the objective compound, 1,1,1,3,3,3-hexafluoro-2,2-bis[4-(4-cyanoamino-2-trifluoromethylphenoxy)phenyl]propane (yield 98.2%). The resulting compound (p-HFCTP-2) had a melting point of 55° to 60° C. IR spectrum of said compound is shown in FIG. 4 and NMR spectrum of said compound is shown in FIG. 3.

reactant | Bromocyanogen | C(#N)Br | CBrN
reactant | 1,1,1,3,3,3-hexafluoro-2,2-bis[4-(4-amino-2-trifluoromethylphenoxy)phenyl]propane | 98.1 g | FC(C(C(F)(F)F)(C1=CC=C(C=C1)OC1=C(C=C(C=C1)N)C(F)(F)F)C1=CC=C(C=C1)OC1=C(C=C(C=C1)N)C(F)(F)F)(F)F | C29H18F12N2O2
reactant | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 300 ml | CC(=O)N(C)C | C4H9NO
solvent | sodium bicarbonate | 25.2 g | C([O-])(O)=O.[Na+]
solvent | water | 75 ml | O | H2O
solvent | water | 1000 ml | O | H2O
product | 1,1,1,3,3,3-hexafluoro-2,2-bis[4-(4-cyanoamino-2-trifluoromethylphenoxy)phenyl]propane | yield 98.2% | FC(C(C(F)(F)F)(C1=CC=C(C=C1)OC1=C(C=C(C=C1)NC#N)C(F)(F)F)C1=CC=C(C=C1)OC1=C(C=C(C=C1)NC#N)C(F)(F)F)(F)F | C31H16F12N4O2
